US07199239B2
Intermediate 3: Ethyl 2-{4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]-2-methylphenoxy}-2-methylpropanoate
Palladium (II) acetate (1.4 mg, 0.006 mmol) and (S)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (5.9 mg, 0.0095 mmol) in anhydrous toluene (0.32 mL) were stirred together at 70° C. in a sealed reactivial for 30 minutes. The vial was then allowed to attain room temperature before the ethyl 2-{4-[(butylamino)methyl]-2-methylphenoxy}-2-methylpropanoate (29 mg, 0.095 mmol), 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine (24 mg, 0.08 mmol) and caesium carbonate (36 mg, 0.11 mmol) were added. The vial was then sealed and heated at 80° C. for 18 h, then allowed to cool to room temperature the reaction mixture filtered and the solvent removed in vacuo. Purification by SPE (Silica, 10 g) eluting with 99:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (18 mg).

reactant | (S)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.0095 mmol, 5.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | ethyl 2-{4-[(butylamino)methyl]-2-methylphenoxy}-2-methylpropanoate | 0.095 mmol, 29 mg | C(CCC)NCC1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C18H29NO3
reactant | 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine | 0.08 mmol, 24 mg | BrC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H7BrF3N
reactant | caesium carbonate | 0.11 mmol, 36 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 0.32 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.006 mmol, 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 2-{4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]-2-methylphenoxy}-2-methylpropanoate | 18 mg | C(CCC)N(C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C30H35F3N2O3
